US04983616
1,2,3,3a,8,8a-Hexahydro-5-nitro-1,3a,8-trimethylpyrrolo[2,3-b]indole (2.2 g) was dissolved in ethyl acetate (100 ml) and hydrogenated in a Parr apparatus at 45 psi using PtO2 (220 mg) as a catalyst. The reduction was complete within 2 hours. The reduction was filtered directly into a nitrogen flushed flask. 4-Dimethylaminopyridine (0.100 g) and triethylamine (0.9 g) were added, the mixture was cooled to 0° C. and a solution of benzylchloroformate (1.5 g) in ethyl acetate (100 ml) was added over a period of 1.5 hours. The mixture was washed with water (2×100 ml), dried (Na2SO4), concentrated and purified by flash chromatography on silica gel (eluting with 15% MeOH/EtOAc). The pure fractions were concentrated to give 5-(benzoxycarbonylamino)-1,2,3,3a,8,8a-hexahydro-1,3a,8-trimethylpyrrolo-[2,3-b]indole (1.2 g).

reactant | 1,2,3,3a,8,8a-Hexahydro-5-nitro-1,3a,8-trimethylpyrrolo[2,3-b]indole | 2.2 g | [N+](=O)([O-])C=1C=C2C3(C(N(C2=CC1)C)N(CC3)C)C | C13H17N3O2
reactant | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
catalyst | PtO2 | 220 mg | O=[Pt]=O
product | 5-(benzoxycarbonylamino)-1,2,3,3a,8,8a-hexahydro-1,3a,8-trimethylpyrrolo-[2,3-b]indole | 1.2 g | C(C1=CC=CC=C1)OC(=O)NC=1C=C2C3(C(N(C2=CC1)C)N(CC3)C)C | C21H25N3O2
